US05601971
1,3-bis-(dimethylcarbamoyl)-imidazolium chloride (I-14)
10.75 g (0.1 mole) dimethylcarbamoyl chloride are added dropwise with stirring to a solution of 6.8 g. (0.1 mole) imidazole and 11 g. triethylamine in 70 ml dry acetone. On warming, triethyl- ammonium chloride precipitates. After 5 hours standing at room temperature, the reaction mixture is filtered and 10.75 g. dimethyl- carbamoyl chloride is added again to the filtrate. After 2 days at room temperature, the crystalline product is filtered off, washed with acetone, and vacuum dried. Yield: 20.2 g 1,3-bis-(dimethylcarbamoyl)-imidazolium chloride (77% of theoretical), melting point 115° C. Analysis:

reactant | dimethylcarbamoyl chloride | 0.1 mole, 10.75 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | imidazole | 0.1 mole | N1C=NC=C1 | C3H4N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | acetone | 70 ml | CC(=O)C | C3H6O
product | 1,3-bis-(dimethylcarbamoyl)-imidazolium chloride | [Cl-].CN(C(=O)[N+]1=CN(C=C1)C(N(C)C)=O)C | InChI=1S/C9H15N4O2.ClH/c1-10(2)8(14)12-5-6-13(7-12)9(15)11(3)4;/h5-7H,1-4H3;1H/q+1;/p-1
